US07985769B2
3-[tert-Butyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (112 mg, 0.24 mmol) was dissolved in a mixture of THF-MeOH—H2O (3:2:1) (15 mL) and then 1.5 ml of LiOH 1N was added to it. After 3 h of stirring at room temperature, solvant was removed and then partitioned between 15 ml of H2O, 4 ml of KHSO4 5% and 15 ml of EtOAc. The organic layer was separated and the aqueous phase was washed twice with ethyl acetate (2×10 mL). The combined ethyl acetate layer was dried (MgSO4), concentrated and the residue was purified by preparative chromatography (10% MeOH/CH2Cl2) to obtain 32 mg (29%) of 3-[tert-Butyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid. NMR 1H (DMSO, 400 MHz): 7.62 ppm (d, 2H, Haro); 7.44-7.34 ppm (m, 4H, Haro); 7.32-7.12 ppm (m, 3H, Haro); 2.48 ppm (s, 9H).

reactant | 3-[tert-Butyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.24 mmol, 112 mg | COC(=O)C=1SC(=CC1N(C(C1=C(C=C(C=C1)Cl)Cl)=O)C(C)(C)C)C1=CC=CC=C1 | C23H21Cl2NO3S
reactant | LiOH | 1N, 1.5 ml | [Li+].[OH-]
solvent | THF MeOH—H2O | 15 mL | C1CCOC1.CO.O
product | 3-[tert-Butyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 32 mg, 29% | C(C)(C)(C)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C22H19Cl2NO3S
